US06245773B1
4-Cyano-4-(2,4-dichlorophenyl)piperidine-1-carboxylic acid tert-butyl ester.
To bis(2-chloroethyl)-carbamic acid tert-butyl ester (1.0 g, 3.8 mmol) and 2,4-dichlorophenyl acetonitrile (0.708 g, 3.8 mmol) in DMF (35 ml), NaH (95%) (0.258 g, 9.68 mmol) was added in one batch at 0° C. The solution was stirred for 10 minutes at room temperature. When foaming subsided, the solution was heated at 60° C. for 24 hours. It was then quenched with water at 0° C. and concentrated. The residue was extracted with ethyl acetate (25 mL) and washed three times with water (15 mL). The organic layer was dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (hexane:ethyl acetate 4:1) yielded 0.620 g (45%) of the product as a syrup.

reactant | bis(2-chloroethyl)-carbamic acid tert-butyl ester | 3.8 mmol, 1.0 g | C(C)(C)(C)OC(N(CCCl)CCCl)=O | C9H17Cl2NO2
reactant | 2,4-dichlorophenyl acetonitrile | 3.8 mmol, 0.708 g | ClC1=C(C=CC(=C1)Cl)CC#N | C8H5Cl2N
reactant | NaH | 9.68 mmol, 0.258 g | [H-].[Na+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 4-Cyano-4-(2,4-dichlorophenyl)piperidine-1-carboxylic acid tert-butyl ester | 0.620 g, 45% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=C(C=C1)Cl)Cl)C#N | C17H20Cl2N2O2
